### PR TITLE
Ranges of Natural Numbers

### PR DESCRIPTION
**Pull request by TOTBWF**
# Description

This PR lays the groundwork for big operators by defining an API for working with ranges `[x, y)` of natural numbers, and proves some useful facts about them. It also does a bit of clean-up on `Data.Nat.Properties`.

## Checklist

Before submitting a merge request, please check the items below:

- [ ] I've read [the contributing guidelines](https://github.com/plt-amy/1lab/blob/main/CONTRIBUTING.md).
- [ ] The imports of new modules have been sorted with `support/sort-imports.hs` (or `nix run --experimental-features nix-command -f . sort-imports`).
- [ ] All new code blocks have "agda" as their language.

If your change affects many files without adding substantial content, and
you don't want your name to appear on those pages (for example, treewide
refactorings or reformattings), start the commit message and PR title with `chore:`.

### CODE REVIEW

**Comment by Lavenza** [comment]
[Pull request preview](https://preview.1lab.dev/558)
##### New pages

  * [Data.Nat.Range](https://preview.1lab.dev/558/Data.Nat.Range.html) (+297, -0)
  * [Data.List.NonEmpty](https://preview.1lab.dev/558/Data.List.NonEmpty.html) (+153, -0)
##### Changed pages

  * [Data.Nat.Properties](https://preview.1lab.dev/558/Data.Nat.Properties.html) (+190, -66)
  * [Data.List.Membership](https://preview.1lab.dev/558/Data.List.Membership.html) (+65, -1)
  * [Data.List.Properties](https://preview.1lab.dev/558/Data.List.Properties.html) (+49, -1)
  * [Data.Nat.DivMod](https://preview.1lab.dev/558/Data.Nat.DivMod.html) (+20, -26)
  * [Data.List.Base](https://preview.1lab.dev/558/Data.List.Base.html) (+14, -2)
  * [Data.Fin.Base](https://preview.1lab.dev/558/Data.Fin.Base.html) (+15, -0)
  * [Data.Nat.Order](https://preview.1lab.dev/558/Data.Nat.Order.html) (+8, -5)
  * [Data.Nat.Divisible.GCD](https://preview.1lab.dev/558/Data.Nat.Divisible.GCD.html) (± 6)

File: src/Data/Nat/Range.lagda.md [hunk 1]
```diff
@@ -0,0 +1,297 @@
...
+  i - x               ∎
+
+range-index-of
+  : ∀ {x y i : Nat}
+  → (i∈xn : i ∈ range x y)
+  → index-of i∈xn ≡ i - x
+range-index-of = count-up-index-of
+```
+
+This means that $i \in range x y$ is a [[proposition]],
```
[the remark this answers is not in the document]
Comment (TOTBWF) [reply src/Data/Nat/Range.lagda.md:271]: That is a typo, should be $[x,y)$.

File: src/Data/List/Properties.lagda.md [hunk 2]
```diff
@@ -103,6 +105,40 @@ We use this to prove that lists preserve h-levels for $n \ge 2$, i.e. if
 
   is-set→List-is-set : is-set A → is-set (List A)
   is-set→List-is-set = List-is-hlevel zero
+
+```
+
+This characterisation has quiet a few useful corollaries.
```
Comment (JacquesCarette) [inline src/Data/List/Properties.lagda.md:111]:
```suggestion
This characterisation has quite a few useful corollaries.
```

**Review by JacquesCarette — CHANGES_REQUESTED** [review]
A couple of typos.

**Comment by TOTBWF** [comment]
You'll probably need something like `map (k +_) (range i j) = range (k + i) (k + j)` to displace the range down a standard finite set but that's pretty easy

**Review by plt-amy — CHANGES_REQUESTED** [review]

File: src/Data/List/Properties.lagda.md [hunk 3]
```diff
@@ -103,6 +105,40 @@ We use this to prove that lists preserve h-levels for $n \ge 2$, i.e. if
 
   is-set→List-is-set : is-set A → is-set (List A)
   is-set→List-is-set = List-is-hlevel zero
+
```
Comment (ncfavier) [inline src/Data/List/Properties.lagda.md:108]: Blank line before `` ``` ``

File: src/Data/List/Properties.lagda.md [hunk 4]
```diff
@@ -103,6 +105,40 @@ We use this to prove that lists preserve h-levels for $n \ge 2$, i.e. if
...
+equivalent to pairs of paths.
+
+```agda
+∷-path≃
+  : ∀ {x y : A} {xs ys : List A}
+  → (x ∷ xs ≡ y ∷ ys) ≃ (x ≡ y × xs ≡ ys)
+∷-path≃ {x = x} {y = y} {xs = xs} {ys = ys} =
+  x ∷ xs ≡ y ∷ ys             ≃⟨ ListPath.Code≃Path ⟩
+  x ≡ y × ListPath.Code xs ys ≃˘⟨ Σ-ap-snd (λ _ → ListPath.Code≃Path) ⟩
+  x ≡ y × xs ≡ ys ≃∎
```
Comment (ncfavier) [inline src/Data/List/Properties.lagda.md:122]: Misaligned `≃∎`

File: src/Data/Nat/Range.lagda.md [hunk 5]
```diff
@@ -0,0 +1,296 @@
...
+n! = \prod_{i=1}^n x
+$$
+
+can be expressed as taking the product of all numbers in the range
+$[1, n]$.
+
+We will focus our attention on half-open ranges of numbers $[x, y)$.
+Ranges of this form have a couple of nice properties:
+
+- If $xs$ is a list, then $[0, \mathrm{length}\; xs)$ gives us all valid indices into $xs$.
```
Comment (ncfavier) [inline src/Data/Nat/Range.lagda.md:50]: `xs` looks like two tokens juxtaposed. Use a single-letter variable name?

File: src/Data/Nat/Range.lagda.md [hunk 6]
```diff
@@ -0,0 +1,296 @@
...
+range-<-∷ : .(x < y) → range x y ≡ x ∷ range (suc x) y
+range-<-∷ {x} {suc y} x<y =
+  count-up x (suc y - x)        ≡⟨ ap (count-up x) (monus-≤-suc x y (≤-peel x<y)) ⟩
+  count-up x (suc (y - x))      ≡⟨⟩
+  x ∷ count-up (suc x) (y - x)  ∎
+```
+
+## Properties of half-open ranges
+
+The length of $[x,y)$ is $y - x$.
```
Comment (ncfavier) [inline src/Data/Nat/Range.lagda.md:108]: Maybe mention that this is monus?
